Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / Bactrim / Flagyl
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Laparoscopic right salpingectomy 

 
History of Present Illness:
___ yo ___ with LMP ___ who presented to the ED with acute 
onset right-sided abdominal pain.  The patient reports that the 
pain came on last night at 7pm but was mild until it awoke her 
from sleep at 8am.  She reports that it was
severe, sharp and colicky in quality, and that she experienced 
presyncope and dizziness.  At 9:30am, she and her husband called 
an ambulance.  

The patient reports she did not know she was pregnant as she had 
a normal period at the beginning of the month.  She reports no 
vaginal bleeding until she saw some spotting when she wiped 
after having the pelvic ultrasound.  She has not been using 
contraception. 
 
Past Medical History:
ObHx: ___
- SVD ___, boy, no comps
- ectopic, believed Right sided, treated with laparoscopic
procedure, possibly salpingostomy ("I still have both my tubes")
in ___
- ectopic, believed right sided, treated with MTX, year unknown

GynHx: 
- hx fibroid uterus s/p UAE ___ yrs ago
- denies hx of abn Pap or STI

PMH:
- G6PD
- Hypertension

PSH:
- laparoscopy ___ above
- ___ shoulder arthroscopy

 
Social History:
lives with husband and son.  Works as ___ at ___. Reports very 
rare EtOH, denies T/D use.

 
Physical Exam:
Exam on admission by Dr. ___ on ___:
98.4, 84, 119/44, 20, 100%RA
Gen: relatively comfortable appearing, pleasant, husband bedside
CV: ___
lungs: CTAB
back: no CVAT
abd: soft, somewhat distended, TTP well localized to RLQ only. 
Pt has some pain on right side with palpation of left side. 
+hypoactive bs.  Well healed scar at umbilicus.
pelvic: ext genitalia nl.  Vagina with blood in vault.  Cx with
+CMT, pain with bimanual exam on Right side.
Extr: NT, NE

 
Pertinent Results:
___ WBC-17.9* RBC-3.32* Hgb-10.5* Hct-31.4* MCV-95 MCH-31.6 
MCHC-33.3 RDW-13.0 Plt ___
___ WBC-14.6* RBC-3.51* Hgb-10.9* Hct-34.0* MCV-97 MCH-31.0 
MCHC-32.0 RDW-12.7 Plt ___
___ WBC-14.6* RBC-3.49* Hgb-10.8* Hct-33.5* MCV-96 MCH-31.0 
MCHC-32.3 RDW-12.3 Plt ___
___ Lymphs-9.5* Monos-1.7* Eos-0.6 Baso-0.1
___ Neuts-77.4* ___ Monos-2.8 Eos-1.5 Baso-0.3
___ ___ PTT-28.9 ___
___ 12:15PM BLOOD Glucose-118* UreaN-7 Creat-0.6 Na-139 
K-3.9 Cl-103 HCO3-23 AnGap-17
___ ALT-12 AST-15 AlkPhos-71 TotBili-0.3
___ Albumin-4.3
___ URINE Color-Yellow Appear-Hazy Sp ___
___ URINE Blood-MOD Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ URINE RBC-11* WBC-2 Bacteri-FEW Yeast-NONE Epi-8
___ URINE UCG-POSITIVE
___ HCG-505

Pelvic u/s (___): 8-cm vascular right adnexal mass, not seen 
on the ___ CT examination, with neighboring moderate blood 
products and/or clot, concerning for right adnexal ectopic 
pregnancy in the setting of known positive urine hCG and lack of 
detectable IUP. Quantitative beta hCG was pending at the time of 
interpretation. 

Renal u/s (___): Normal ultrasound examination of the 
kidneys and bladder
 
Brief Hospital Course:
Ms. ___ underwent right laparoscopic salpingectomy for right 
ectopic pregnancy. Please see operative report for full details. 
While in the PACU she was unable to be weaned to room air and 
continued to have an oxygen requirement.  As a result, she was 
admitted to the GYN service for further evaluation and 
monitoring. Also, on POD0 she failed her initial voiding trial 
and had her foley catheter replaced.
.
With regards to her continued oxygen requirement, this was 
thought to be likely due to a combination of sedation and 
obstruction, given her body habitus.  She had a CXR which was 
normal. Her heart rate remained in the normal range. She never 
had any symptoms of tachycardia.  On POD1 she was successfully 
weaned off of oxygen to room air. 
.
On POD1 she had her voiding trial repeated and was able to void 
spontaneously. She was also tolerating a regular diet, 
ambulating, controlling her pain with oral pain medications and 
did not have any oxygen requirement. As a result, she was 
discharged ___ in good condition on POD1 with follow-up. 
 
Medications on Admission:
- lisinopril 20mg qd
- amlodipine dose unknown

 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ectopic pregnancy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted for routine post operative care 
after your procedure. You were given nebulizer treatments due to 
a continued oxygen requirement. A chest xray was normal. Please 
see your primary care physician regarding testing for possible 
sleep apnea. 
 
Followup Instructions:
___